US07674815B2
109 μl (0.93 mmol) of tin-tetrachloride and 882 μl (3.70 mmol) of tri-n-butylamine were added to a solution of 1.0 g (9.25 mmol) of 3-methyl-phenol in toluene (12 ml) and the mixture was stirred for 30 min at RT. Then 611 g of paraformaldehyde were added and the resulting mixture was heated to 100° C. for 16 hours. After cooling to RT water (40 ml) was added and the pH was adjusted to 2 by addition of 1N HCl. This mixture was extracted with ether. The combined organic extracts were washed with brine, dried (MgSO4) and concentrated. The residue was purified by column chromatography (silica gel; ether/cyclohexane 1:15) to yield 131 mg (10%) of 2-hydroxy-4-methyl-benzaldehyde as colorless crystals. 1HNMR (CDCl3, 300 MHz): δ 2.38 (s, 3H), 6.80 (s, 1H), 6.82 (d, J=7.9 Hz, 1H), 7.43 (d, J=7.9 Hz, 1H), 9.83 (s, 1H), 11.04 (s, 1H).

reactant | tin-tetrachloride | 0.93 mmol, 109 μl | [Sn](Cl)(Cl)(Cl)Cl
reactant | tri-n-butylamine | 3.70 mmol, 882 μl | C(CCC)N(CCCC)CCCC | C12H27N
reactant | 3-methyl-phenol | 9.25 mmol, 1.0 g | CC=1C=C(C=CC1)O | C7H8O
reactant | paraformaldehyde | 611 g | C=O | CH2O
reactant | HCl | 1N | Cl | ClH
solvent | toluene | 12 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 40 ml | O | H2O
product | 2-hydroxy-4-methyl-benzaldehyde | 131 mg, 10% | OC1=C(C=O)C=CC(=C1)C | C8H8O2
